US08349880B2
Step H (3): Dichloromethane (20 mL) was added to a flask charged with 3-methoxy-4-(3-methylisoxazol-5-yl)aniline (500 mg, 2.448 mmol) and 1,1′-thiocarbonyldipyridin-2(1H)-one (569 mg, 2.448 mmol). The resulting mixture was stirred for 24 h at rt. The crude reaction mixture was concentrated and the crude products were purified using silica gel chromatography (20-50% EtOAc/hexane) linear gradient to afford 5-(4-isothiocyanato-2-methoxyphenyl)-3-methylisoxazole (0.510 g, 84% yield). LC-MS (M+H)+ 247.2. 1H NMR (400 MHz, methanol-d4) δ ppm 7.86 (d, J=8.56 Hz, 1 H) 7.06 (d, J=2.01 Hz, 1 H) 6.99 (dd, J=8.44, 1.89 Hz, 1 H) 6.73 (s, 1 H) 3.97 (s, 3 H) 2.31 (s, 3 H).

reactant | 3-methoxy-4-(3-methylisoxazol-5-yl)aniline | 2.448 mmol, 500 mg | COC=1C=C(N)C=CC1C1=CC(=NO1)C | C11H12N2O2
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 2.448 mmol, 569 mg | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | Dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-(4-isothiocyanato-2-methoxyphenyl)-3-methylisoxazole | 0.510 g, 84% yield | N(=C=S)C1=CC(=C(C=C1)C1=CC(=NO1)C)OC | C12H10N2O2S
